* Path, Component, Release: cmos7base/rel/Spectre/models/opppcres.scs, tech7_models, mod_cmos7base
* CMVC Revision: 1.4 11/09/27 10:09:24
*
*>  IBM 7RF/7WL  opppcres    P+ Poly Resistor (Over SX, NW, or BB)
*
***********************************************************************
*
*  Distributed R-C network which accounts for end resistance effects,
*  parasitic capacitance and includes a fixed substrate resistance.
*
*          Rend        Rmid                     Rmid        Rend
*  in  o--/\/\/\--o---/\/\/\---------o---------/\/\/\---o--/\/\/\--o  out
*                 |                  |                  |
*                 |                  |                  |
*               ----               -----              -----
*          Cpcx ----          Cpcx -----         Cpcx -----
*                 |                  |                  |
*                 |                  |                  |
*                 \                  \                  \
*             Rg  /               Rg /               Rg /
*                 \                  \                  \
*                 |                  |                  |
*                 o------------o-----o-----o------------o
*                              |           |
*   Parasitic capacitance is   \           |
*   divided among C elements   / Rsub    ----- Csub
*   in 1/6 - 2/3 - 1/6 ratios  \         -----
*                              |           |
*                              o-----o-----o
*                                    |
*                                    o  substrate (sx)
*
***********************************************************************
*
*  DIMENSIONS: W = Design width  of PC
*              L = Design length of OP
*
*  SYNTAX:     Specify both width and length:
*              xxx  in out sx  opppcres (w=2u  l=5u)
*
*       OR     Specify width and resistance:
*              xxx  in out sx  opppcres (w=2u  r=520)
*
*  SERIES:        s  --> Defined model parameter,   Reff = Rbar * s
*
*  PARALLEL:      m  --> Implicit model parameter,  Reff = Rbar / m
*
*              pbar  --> Defined model parameter,   Reff = Rbar
*
*               par  --> Explicit device multiplicity (par must equal m in netlist)
*
*  OPTIONAL:   dtemp --> Device temperature difference with respect to
*                        the simulated circuit temperature (deg C).
*
*                rsx --> Substrate resistance, default = -1
*                        -1 = model estimate based on groundplane, substrate options
*                         0 = substrate model (sxmodel) to be placed by user
*                        >0 = user-defined value
*
*                 bp --> Specify groundplane, bp=3 (SX), default
*                                             bp=2 (BB), bp=1 (NW)
*
*  NOTES:
*
*  1. Model supports only rectangular resistors with contacts at each
*     end of the resistor bar. "Dogbone" or multiple tap layouts are 
*     not supported.
*
*  2. Model assumes minimum groundrule spacings used for placing contacts
*     to calculate the end resistance effects based on OP design length.
*
* IBM CONFIDENTIAL
* (C) 2011 IBM Corporation
*                                
***********************************************************************
simulator lang=spectre

subckt opppcres  (in out sx)
parameters       w=2u l=-1u r=-1  s=1 pbar=1  dtemp=0 rsx=-1  bp=3 par=1
*
* Check for minimum width, calculate effective width
+ opwdth = max(w,0.32u) + oppcdwf
*
* Calculate op length, assumes w,r and groundrule spacings for contacts
+ rendn = 1u*(exp(oppcrenn) - 97)
+ pleqn = ((r*pbar*(w+oppcdwn) - 2*rendn) / oppcrsn) - oppcdln
*
* Select op length, user input takes precedence over calculated length
+ plnom = max(l,0) + ((l-abs(l))/(2*l))*pleqn
*
* Check for minimum length, calculate effective length
+ oplen = max(plnom,1.06u) + oppcdlf
*
* Resistance calculation
+ rmid = oppcrsf * (oplen / opwdth) / 2
+ rend = 1u*(exp(oppcrenf) - 97) / opwdth
*
* Substrate resistance and capacitance calculations
+ ptnw = (bp==1)
+ ptbb = (bp==2)
+ ptsx = (bp==3)
+ prsx = ((ptnw+ptsx)*50 + ptbb*500)*(rsx==-1) + 1m*(rsx==0) + rsx*(rsx>0)
+ prho = (ptnw+ptsx)*rsub + ptbb*rsubbb
+ pcsx = (e0*ersi*prho)/prsx
*
* Calculate area, perimeter for capacitance
* Subtract delta w, delta l to obtain drawn dimensions,
* Then include region outside of op mask
+ opcaplen  = 2 * ((oplen-oppcdln) + 2*oppcendf + (opwdth-oppcdwn))
+ opcaparea = ((oplen-oppcdln) + 2*oppcendf) * (opwdth-oppcdwn)
*
* Partition capacitance area, perimeter
+ apcx = opcaparea / 3
+ ppcx = opcaplen / 3
*
* Mis-match Calculation
+ opma   = oppcma * oppcma / (oplen * opwdth * 1e12)
+ opml   = oppcml * oppcml / (opwdth * oplen * oplen * 1e18)
+ opmw   = oppcmw * oppcmw / (opwdth * opwdth * 1e12)
+ op3sig = 0.01 * sqrt(opma + opml + opmw)
+ opmm   = op3sig * 0.7071 / sqrt(s*pbar*par)
+ mmatr  = 1 + (opmm * mmres)
*
* Effective resistance from conductance
+ rg = 2.5/((ptsx*13.4e2+ptbb*1.0e2+ptnw*12e2)*opwdth + (ptsx*4.9e2+ptbb*0.36e2+ptnw*4.3e2)*oplen)
*
* Flicker Noise
+ lnoi = oplen - oppcdlf
+ wnoi = opwdth - oppcdwf
+ rtot = 2*rmid + 2*rend
+ k1 = (10.128e-23)*(wnoi/lnoi)*(rtot/rmid)*(rtot/rmid)/(wnoi*wnoi)/(s*pbar)

* Resistor network
rea  in   1  resistor  r=rend*mmatr*s/pbar  trise=dtemp  tc1=oppcrntc
reb   5 out  resistor  r=rend*mmatr*s/pbar  trise=dtemp  tc1=oppcrntc
rma   1   3  noise_res r=rmid*mmatr*s/pbar  trise=dtemp  tc1=oppcrstc
rmb   3   5  resistor  r=rmid*mmatr*s/pbar  trise=dtemp  tc1=oppcrstc

cpca  1  11  capacitor c=((apcx*oppcdown + ppcx*oppcfrng)/2)*s*pbar
cpcb  3  31  capacitor c=(2*(apcx*oppcdown + ppcx*oppcfrng))*s*pbar
cpcc  5  51  capacitor c=((apcx*oppcdown + ppcx*oppcfrng)/2)*s*pbar

rga   11  6  resistor r=6*rg/(s*pbar)
rgb   31  6  resistor r=1.5*rg/(s*pbar)
rgc   51  6  resistor r=6*rg/(s*pbar)

rsb   6  sx  resistor  r=prsx
csb   6  sx  capacitor c=pcsx

model noise_res resistor
+ l = 1
+ kf = k1
+ af = 2 
+ wdexp = 0
+ ldexp = 0
+ leexp = 0
+ weexp = 0

ends opppcres
